US07951838B2
Anhydrous, de-gassed THF (20 mL) was added to 2-(dicyclohexylphosphino)-2′-methylbiphenyl (1.2 g, 3.2 mmol) and tris(dibenzylideneacetone)dipalladium (0) chloroform adduct (1.4 g, 1.4 mmol), and the resulting solution was warmed to 45° C. and sparged with N2. After 20 min, the reaction mixture was allowed to cool to RT, then added to a stirring, degassed mixture of 5-bromo-2-fluoropyridine (4.8 g, 27 mmol), finely ground potassium phosphate tribasic (14 g, 68 mmol), and acetone (100 mL, 1400 mmol) at RT, and the resulting mixture was sparged with N2. After 20 min, the reaction mixture was heated at reflux for 24 h, the reaction mixture was allowed to cool to room temperature, filtered through a 0.45 μm Teflon filter, and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel (gradient elution; 4:1→2:1 hexane-ethyl acetate) to give 2.3 g (55%) of 1-(6-fluoropyridin-3-yl)propan-2-one as a brown oil.

reactant | 2-(dicyclohexylphosphino)-2′-methylbiphenyl | 3.2 mmol, 1.2 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C1CCCCC1 | C25H33P
reactant | 5-bromo-2-fluoropyridine | 27 mmol, 4.8 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | potassium phosphate tribasic | 68 mmol, 14 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | acetone | 1400 mmol, 100 mL | CC(=O)C | C3H6O
catalyst | tris(dibenzylideneacetone)dipalladium (0) chloroform adduct | 1.4 mmol, 1.4 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | 1-(6-fluoropyridin-3-yl)propan-2-one | 2.3 g, 55% | FC1=CC=C(C=N1)CC(C)=O | C8H8FNO
